US08084442B2
Sodium hydride (0.19 g, 60% in oil) was added to 10 ml of dimethyl sulfoxide (DMSO) and stirred at 60° C. for one hour. Subsequently, 1.0 g of (3,4-dichlorophenyl)-(4-fluorophenyl)amine was added to the mixture and stirred at 60° C. for one hour. A DMSO solution containing 2.0 g of 3-(toluene-4-sulfonyloxy)pyrrolidine-1-carboxylic acid tert-butyl ester was gradually added to the mixture and stirred at 60° C. for 15 hours. Ethyl acetate was added to the reaction solution. The solution was then washed with water, and dried over magnesium sulfate. The solvent was distilled off under reduced pressure, and the residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=20:1). The eluent solvent was distilled off under reduced pressure to thereby obtain 0.29 g of oily brown 3-[(3,4-dichlorophenyl)-(4-fluorophenyl)amino]pyrrolidine-1-carboxylic acid tert-butyl ester.

reactant | Sodium hydride | 0.19 g | [H-].[Na+]
reactant | dimethyl sulfoxide | 10 ml | CS(=O)C | C2H6OS
reactant | (3,4-dichlorophenyl)-(4-fluorophenyl)amine | 1.0 g | ClC=1C=C(C=CC1Cl)NC1=CC=C(C=C1)F | C12H8Cl2FN
reactant | 3-(toluene-4-sulfonyloxy)pyrrolidine-1-carboxylic acid tert-butyl ester | 2.0 g | C(C)(C)(C)OC(=O)N1CC(CC1)OS(=O)(=O)C1=CC=C(C=C1)C | C16H23NO5S
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-[(3,4-dichlorophenyl)-(4-fluorophenyl)amino]pyrrolidine-1-carboxylic acid tert-butyl ester | 0.29 g | C(C)(C)(C)OC(=O)N1CC(CC1)N(C1=CC=C(C=C1)F)C1=CC(=C(C=C1)Cl)Cl | C21H23Cl2FN2O2
